US06410533B1
1-(3,5-Bis-trifluoromethyl-phenyl)-3-[4-(4-chloro-phenyl)-thiazol-2-yl]-urea (Compound 138)
To a stirred solution of 2-amino-4-(4-chlorophenyl)thiazole (0.647 g, 3.07 mmol) in ethyl acetate (50 mL) was added 3,5-bis(trifluoromethyl)phenyl isocyanate (0.53 mL, 3.1 mmol). The mixture was refluxed for 16 hours, cooled to room temperature, and washed with 10% aqueous hydrochloric acid solution, water and brine. The mixture was dried (magnesium sulfate), filtered, and concentrated to provide a white solid. Flash chromatography over silica (hexanes/ethyl acetate) provided 0.850 g (59%) of the product as a white solid: 1H NMR (NMR (DMSO-d6) δ9.62 (br s, 1H), 8.18-8.17 (m, 2H), 7.92-7.88 (m, 2H), 7.72-7.66 (m, 2H), 7.49-7.46 (m, 2H) ppm.

reactant | 2-amino-4-(4-chlorophenyl)thiazole | 3.07 mmol, 0.647 g | NC=1SC=C(N1)C1=CC=C(C=C1)Cl | C9H7ClN2S
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 3.1 mmol, 0.53 mL | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3,5-Bis-trifluoromethyl-phenyl)-3-[4-(4-chloro-phenyl)-thiazol-2-yl]-urea | 0.850 g, 59% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC=1SC=C(N1)C1=CC=C(C=C1)Cl)(F)F | C18H10ClF6N3OS
